US05686424
Using the procedure described in example 3, a solution of 1-(2-adamantan-1-yl-2-oxoethyl) L-proline (104.6 mg, 0.36 mmol, 1.0 eq), triethylamine (150 uL, 1.07 mmol, 3.0 eq), and THF (1.5 mL), was treated with isobutyl chloroformate (51 uL, 0.39 mL, 1.1 eq), then with glycine N-benzylamide (88.2 mg, 537 umol, 1.5 eq). Workup as before provided 53.9 mg (34%) of glycine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide. as a white foam.

reactant | 1-(2-adamantan-1-yl-2-oxoethyl) L-proline | 0.36 mmol, 104.6 mg, 1.0 eq | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)O)CCC2)=O | C17H25NO3
reactant | triethylamine | 1.07 mmol, 150 uL, 3.0 eq | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 51 uL, 1.1 eq | ClC(=O)OCC(C)C | C5H9ClO2
reactant | glycine N-benzylamide | 537 umol, 88.2 mg, 1.5 eq | C(C1=CC=CC=C1)NC(CN)=O | C9H12N2O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | glycine, N-[1-(2-adamantan-1-yl-2-oxoethyl)-L-prolyl] benzylamide | 53.9 mg, 34% | C12(CC3CC(CC(C1)C3)C2)C(CN2[C@H](C(=O)N(C(CN)=O)CC3=CC=CC=C3)CCC2)=O | C26H35N3O3
